US05006157
Preparation of 1-(α,α-dimethylbenzyl)-3-phenyl-1,2,5,6tetrahydropyridin-2-one (Compound No. 1)
4.2 g (0.012 mol) of 4-acetoxy-1-(α,α-dimethylbenzyl)-3-phenyl-2-piperidone prepared by the method of Reference Example 20, was dissolved in 100 ml of toluene, and 2,7 g (0.018 mol) of DBU was added thereto. The mixture was refluxed under heating for 10 minutes. The reaction solution was cooled to room temperature and washed with water. Then, the solvent was distilled off under reduced pressure. The residual solid was recrystallized from ethanol to obtain 3.0 g (yield: 75.0%) of the desired compound.

reactant | 4-acetoxy-1-(α,α-dimethylbenzyl)-3-phenyl-2-piperidone | 0.012 mol, 4.2 g | C(C)(=O)OC1C(C(N(CC1)C(C1=CC=CC=C1)(C)C)=O)C1=CC=CC=C1 | C22H25NO3
reactant | DBU | 0.018 mol, 2,7 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(α,α-dimethylbenzyl)-3-phenyl-1,2,5,6tetrahydropyridin-2-one | 3.0 g, yield: 75.0% | CC(C1=CC=CC=C1)(C)N1C(C(=CCC1)C1=CC=CC=C1)=O | C20H21NO
